US08729071B2
A mixture of 1-(6-bromopyridin-3-yl)ethanone (200 mg, 1.0 mmol) and CuCN (179 mg, 2.0 mmol) in anhydrous DMF (5 mL) was heated at 110° C. for 18 h under N2. The mixture was cooled to room temperature and diluted with water. After addition of EtOAc and filtration, the aqueous layer was extracted with EtOAc. The organic layer was washed with sat. NaHCO3 (aq), brine, and then dried (MgSO4) and concentrated. The product 5-acetylpicolinonitrile (120 mg) was obtained by silica gel chromatography (elution with 0-20% EtOAc/Hex).

reactant | 1-(6-bromopyridin-3-yl)ethanone | 1.0 mmol, 200 mg | BrC1=CC=C(C=N1)C(C)=O | C7H6BrNO
reactant | CuCN | 2.0 mmol, 179 mg | C(#N)[Cu]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-acetylpicolinonitrile | 120 mg | C(C)(=O)C=1C=CC(=NC1)C#N | C8H6N2O
